US07642264B2
3-[3-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl]-benzenesulfonamide
The title compound was prepared from 4-(4-chloro-phenyl)-N-hydroxy-6-trifluoromethyl-pyrimidine-2-carboxamidine (example C.1) (0.16 g, 0.5 mmol) and commercially available 3-sulfamoyl-benzoic acid (0.1 g, 0.5 mmol) according to the general procedure VI. Obtained as a white solid (0.1 g, 43%). MS (ISP) 482.1 [(M+H)+]; mp 273° C.

reactant | 4-(4-chloro-phenyl)-N-hydroxy-6-trifluoromethyl-pyrimidine-2-carboxamidine | 0.5 mmol, 0.16 g | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C(=N)NO | C12H8ClF3N4O
reactant | 3-sulfamoyl-benzoic acid | 0.5 mmol, 0.1 g | S(N)(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H7NO4S
product | 3-[3-[4-(4-Chloro-phenyl)-6-trifluoromethyl-pyrimidin-2-yl]-[1,2,4]oxadiazol-5-yl]-benzenesulfonamide | ClC1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)C1=NOC(=N1)C=1C=C(C=CC1)S(=O)(=O)N | C19H11ClF3N5O3S
